US05622965
Synthesis of 3, 6-Dinitro-4-hydroxy-1,2-dihydroquinolin-2-one
A solution of 724 mg (3.51 retool) of 3-nitro-4-hydroxy-1,2-dihydroquinolin-2-one and 401 mg (3.97 retool) of KNO3 in 4 mL of 96% H2SO4 was stirred in an ice-bath for 30 min, then 25° C. for 20 h. The solution was added into 25 mL of ice-water to give a yellow precipitate and the mixture was stirred for 1 h, filtered and washed with water, and dried to leave 602 mg (68%) of title compound as a yellow solid, mp 197°-198° C. (decomposed, lit (Buckle et al., supra) 199° -200° C.). 1H NMR (CDCl3 +DMSO-d6), 7.114 (d, 1, J=9.12), 7.980 (dd, 1, J=2.27, 9.13), 8.628 (d, 1, J=2.28), 12.13 (mb, 1).

reactant | 3-nitro-4-hydroxy-1,2-dihydroquinolin-2-one | 724 mg | [N+](=O)([O-])C=1C(NC2=CC=CC=C2C1O)=O | C9H6N2O4
reactant | KNO3 | 401 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 3, 6-Dinitro-4-hydroxy-1,2-dihydroquinolin-2-one | 602 mg, 68% | [N+](=O)([O-])C=1C(NC2=CC=C(C=C2C1O)[N+](=O)[O-])=O | C9H5N3O6
